US04405635
1,3-Dihydro-4-(3,4-methylenedioxybenzoyl)-5-methyl-2H-imidazol-2-one
To 5.13 g. of 1,3-dihydro-4-methyl-2H-imidazol-2-one and 7.98 g. of anhydrous aluminum chloride in 80 ml. of nitrobenzene is added dropwise 10.60 g. of 3,4-methylenedioxybenzoyl chloride and the mixture is poured on 500 ml. of 2N-HCl and ice, washed 3 times with ethyl ether, the resulting solid is collected to give the title compound. M.p. 293°-296° C. (dec.).

reactant | 1,3-dihydro-4-methyl-2H-imidazol-2-one | CC=1NC(NC1)=O | C4H6N2O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 3,4-methylenedioxybenzoyl chloride | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
product | 1,3-Dihydro-4-(3,4-methylenedioxybenzoyl)-5-methyl-2H-imidazol-2-one | C1OC=2C=C(C(=O)C=3NC(NC3C)=O)C=CC2O1 | C12H10N2O4
